US06107329
(S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one hydrochloride
(S)-[1-Benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (3.66 g, 10.5 mmol) was dissolved in 4M HCl-dioxane (39 mL) at 0° C. The mixture was stirred at 25° C. for 1 hour, concentrated and the residue triturated with ether. Yield 3.06 g, 102%.

reactant | (S)-[1-Benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 10.5 mmol, 3.66 g | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1)=O | C19H28N2O4
reactant | HCl dioxane | 4M, 39 mL | Cl.O1CCOCC1
product | (S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1 | InChI=1S/C14H20N2O2.ClH/c15-13(10-11-4-2-1-3-5-11)14(18)16-8-6-12(17)7-9-16;/h1-5,12-13,17H,6-10,15H2;1H/t13-;/m0./s1
